### PR TITLE
[Merged by Bors] - chore: some more cdots

### PR DESCRIPTION
**Pull request by adomani**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 1]
```diff
@@ -361,9 +361,9 @@ protected theorem AnalyticOn.fderivWithin (h : AnalyticOn 𝕜 f s) (hu : Unique
   refine ⟨p.derivSeries, r, ?_⟩
   refine ⟨hr.r_le.trans p.radius_le_radius_derivSeries, hr.r_pos, fun {y} hy h'y ↦ ?_⟩
   apply hr.hasSum_derivSeries_of_hasFDerivWithinAt (by simpa [edist_eq_coe_nnnorm] using h'y) hy
-  rw [insert_eq_of_mem hx] at hy ⊢
-  apply DifferentiableWithinAt.hasFDerivWithinAt
-  · exact h.differentiableOn _ hy
+  · rw [insert_eq_of_mem hx] at hy ⊢
+    apply DifferentiableWithinAt.hasFDerivWithinAt
+    · exact h.differentiableOn _ hy
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:366]: Is this one needed?

Comment (adomani) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean]: Well-spotted: this one was not needed!

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
